US07030128B2
A solution of isopropylmagnesium chloride (4.2 mmol) in THF (2.0M, 2.1 ml) was added dropwise to a stirred solution of 2-iodo-4-methoxypyrimidine (prepared according to Leprete et al. in Tetrahedron, 2000, 56, 265-273) (1.0 g, 4.2 mmol) in THF (12 ml) at 0° C. under N2. The reaction was stirred for 30 min at 0° C. and then DMA (409 μl, 4.4 mmol) was added. The reaction was stirred for 1 h and then quenched by addition of NH4Cl solution (15 ml) and extracted with EtOAc (50 ml and 20 ml). The combined organics were concentrated under reduced pressure and purified by column chromatography on silica, using 75% Et2O/iso-hexanes as eluent, to yield 1-(4-methoxypyrimidin-2-yl)ethanone (206 mg, 32%): 1H NMR (360 MHz, CDCl3) δ 8.59 (1H, d, J 5.7), 6.83 (1H, d, J 5.7), 4.08 (3H, s), 2.74 (3H, s); m/z (ES+) 153 (M+).

reactant | isopropylmagnesium chloride | 4.2 mmol | C(C)(C)[Mg]Cl
reactant | 2-iodo-4-methoxypyrimidine | 4.2 mmol, 1.0 g | IC1=NC=CC(=N1)OC | C5H5IN2O
reactant | DMA | 4.4 mmol, 409 μl | CC(=O)N(C)C | C4H9NO
solvent | THF | 2.0M, 2.1 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 1-(4-methoxypyrimidin-2-yl)ethanone | 206 mg, 32% | COC1=NC(=NC=C1)C(C)=O | C7H8N2O2
